US08530388B2
To 4-bromo-1-ethyl-2-nitrobenzene (20.0 g, 0.087 mol) in 150 ml 1,2-dimethoxyethane is added, at room temperature, 4-chlorophenylboronic acid (14.98 g, 0.096 mol) and tetrakis(triphenylphosphine)palladium(0) (2.0 g, 0.00174 mol) and nitrogen gas is bubbled through the mixture. After stirring for 10 minutes at 20° C., a solution of sodium carbonate (73.8 g, 0.696 mol) in water (350 ml) is added and mixture is refluxed for 16 hours. The reaction mixture is cooled to room temperature, filtered through diatomaceous earth, washing with 200 ml of ethyl acetate. The mixture is poured into a separating funnel and the two phases are separated. The aqueous phase is extracted with ethyl acetate. The organic extracts are combined, dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated in vacuo to give 4′-chloro-4-ethyl-3-nitrobiphenyl (23.84 g) as a brown oil used without further purification in the next step.

reactant | 4-bromo-1-ethyl-2-nitrobenzene | 0.087 mol, 20.0 g | BrC1=CC(=C(C=C1)CC)[N+](=O)[O-] | C8H8BrNO2
reactant | 4-chlorophenylboronic acid | 0.096 mol, 14.98 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 0.696 mol, 73.8 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
solvent | water | 350 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00174 mol, 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-chloro-4-ethyl-3-nitrobiphenyl | 23.84 g | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)CC)[N+](=O)[O-] | C14H12ClNO2
